US06440995B1
(RS)-3-[2-(2,3-Dihydro-benzofuran-5-yl)-quinolin-4-ylamino]-propane-1,2-diol hydrochloride
The title compound, m.p. 267-270° C. and MS: m/e=336 (M+), was prepared from 4-chloro-2-(2,3-dihydro-benzofuran-5-yl)-quinoline and (RS)-3-amino-1,2-propandiol.

reactant | 4-chloro-2-(2,3-dihydro-benzofuran-5-yl)-quinoline | ClC1=CC(=NC2=CC=CC=C12)C=1C=CC2=C(CCO2)C1 | C17H12ClNO
reactant | (RS)-3-amino-1,2-propandiol | NCC(CO)O | C3H9NO2
product | (RS)-3-[2-(2,3-Dihydro-benzofuran-5-yl)-quinolin-4-ylamino]-propane-1,2-diol hydrochloride | Cl.O1CCC2=C1C=CC(=C2)C2=NC1=CC=CC=C1C(=C2)NCC(CO)O | InChI=1S/C20H20N2O3.ClH/c23-12-15(24)11-21-19-10-18(22-17-4-2-1-3-16(17)19)13-5-6-20-14(9-13)7-8-25-20;/h1-6,9-10,15,23-24H,7-8,11-12H2,(H,21,22);1H
